US04178290
A solution of potassium tert.-butylate (5.35 g) in tetrahydrofurane (40 cc) is cooled to -70° C. A solution of 3-tert.-butoxycarbonyl-4-ethoxycarbonyl-2-thioxo-1-oxa-7,9-dithia-3-azaspiro[4.5]decane (9 g) in tetrahydrofurane (40 cc) is added dropwise. The mixture is stirred for a further 3 hours, acetic acid (2.9 g) is then added and the reaction mixture is allowed to warm up to 20° C. The tetrahydrofurane is evaporated off under reduced pressure (20 mm Hg) at 30° C. The residue is dissolved in ethyl acetate (25 cc). The solution is washed with water (25 cc) and then dried over sodium sulphate. The solution is filtered and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg). A solid residue is obtained and treated with petroleum ether (100 cc). The precipitate is filtered off and dried under reduced pressure. Ethyl α-tert.-butoxycarbonylamino-(4,5-dihydro-1,3-dithiin-5-ylidene)-acetate (5.3 g) is thus obtained in the form of a beige solid which melts at 154° C. (Kofler instantaneous m.p.).

reactant | 3-tert.-butoxycarbonyl-4-ethoxycarbonyl-2-thioxo-1-oxa-7,9-dithia-3-azaspiro[4.5]decane | 9 g | C(C)(C)(C)OC(=O)N1C(OC2(C1C(=O)OCC)CSCSC2)=S | C14H21NO5S3
reactant | acetic acid | 2.9 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofurane | 40 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 40 cc | O1CCCC1 | C4H8O
product | Ethyl α-tert.-butoxycarbonylamino-(4,5-dihydro-1,3-dithiin-5-ylidene)-acetate | 5.3 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC)=C1CSCSC1 | C13H21NO4S2
